Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old lady with reported past medical history of dementia,
melanoma (unclear stage, reportedly in remission), hypertension,
hyperlipidemia, and GERD who presents as transfer from ___
with left distal tib/fib and ___ metatarsal neck fractures.
She is admitted for new hypoxia.

History obtained from daughter ___ (___). ___ notes
that her mother has been declining mentally and physically since
husband's death ___ years ago, and is now essentially
bed/wheelchair bound. ___ has resided at ___ home for 
___
years after a hospitalization for UTI, and approximately 6 
months
ago all ___ activities were stopped per medicare because
patient was not making any progress.

At recent baseline, all transfers are via ___ lift. During the
day, ___ likes to stare out of the window and watch TV. She
no longer participates in activities at the nursing home. She
requires assistance with dressing and bathing, although still
feeds herself independently. ___ has noticed that her mother 
is
progressively more forgetful, says "silly things" and is
sometimes confused about where she is. At some point she was 
also
making references to obtaining menstrual pads, forgot that she
was postmenopausal. ___ notes that ___ is better when
family is around. There has never been a formal diagnosis of
dementia per ___ recollections. ___ suspects that her
mother is depressed, and that ___ just "gave up" after her
husband passed away, because ___ and ___ husband used to do
everything together. ___ has noted that prior to becoming
wheelchair/bed bound, patient was fairly active and used to walk
___ hours a day, but was suffering frequent falls. Patient also
has urinary incontinence in baseline- which ___ described as
initially because ___ was "unable to make it to bathroom in
time". There is also some report of possible gait disturbance. 
In
past, ___ was followed by neurologist Dr. ___ @ ___
for tinnitus, the details of which are unclear.

I specifically inquired about question of oxygen requirement;
___ reports that patient has no known underlying pulmonary
problems, but that occasionally would be given nebulizers for
cough. Very sporadically will be given oxygen when has a
pneumonia. In the past ___ also has had TTE @ ___ which
were all reportedly normal. ___ does have history of 
melanoma
on arm with history of ?lymph node dissection years ago, and is
thought to be in remission. No history of VTE. 

I asked ___ how ___ could have sustained fractures given
that all transfers were by ___ lift. ___ shares that she is
also unsure, but that ___ told her that she was trying to 
get
out of bed. This was apparently unwitnessed fall, unknown if
headstrike.

In the ED, initial VS were: 97.5 HR 96 BP 151/97 RR 18 94% 2L NC
--> 99.1 HR 103 143/70 22 97% 4L NC (note at this time pain 
score
0)

Exam notable for:
General: Answering questions appropriately.
HEENT: NC, AT. There is pain. Intact mucous membranes. No
dentition.
Neck: No C-spine tenderness
Chest: CTAB, no pain to palpation
CV: Regular, normal S1/S2, no m/g/r.
Abdomen: soft, non-tender, no HSM
Ext: Left leg: Splint in place to left leg, CMS intact. No TTP
over hip.

ECG: None obtained
Labs showed:
WBC 9.9 Hgb 13.9 Plt 201
137 | 95 | 26
---------------
4.1 | 26 | 0.6
INR 1.0
U/A WBC 2, Leuk neg, Nitr neg

Imaging showed:
CT ___ WITHOUT CONTRAST:
1. Comminuted fracture of the distal tibia with oblique and
transverse
fracture lines. 6 mm overriding of the butterfly fragment and
varus angulation of the distal tibia. Congruent knee and ankle
joint. No evidence of tendon entrapment. No evidence of
intraarticular extension.
2. Minimally displaced fibular fracture near the syndesmosis.
3. Multiple mildly displaced distal ___ and ___ metatarsal
fractures, better seen on the radiograph from ___.
Evaluation of this region is limited due to diffuse
demineralization.
4. Small knee joint effusion.
5. Mild soft tissue swelling.

L TIB/FIB XR: Status post cast placement of comminuted fractures
of the distal tibial and fibula metadiaphysis demonstrating near
anatomic alignment.

L FOOT XR: Overlying cast obscures visualization of fine osseous
details. Comminuted metadiaphyseal fractures all 5 metatarsal
bones demonstrating near-anatomic alignment. Partially 
visualized
comminuted distal tibial and fibula metadiaphysis fractures.

CT HEAD WITHOUT CONTRAST: 1. No acute intracranial process.
2. Global cortical atrophy and extensive sequela of chronic
microvascular ischemic disease.

Consults:
ORTHOPEDICS:
" ___ with Left distal tib/fib and ___ metatarsal neck fxs. 
 these are closed injuries which may not need operative
 intervention, especially in a low-demand pt. We will plan for
 non-operative treatment with follow-up in trauma clinic.
 - Please obtain CT of the left ankle to assess fracture pattern
 and alignment
 - Activity: NWB LLE in splint
 - Anticoagulation: Lovenox 40mg SC QPM
 - Antibiotics: None
 - Analgesia: Standard regimen
 - Non-operative. ___, can follow up in orthopedics clinic. "

Patient received:
Morphine 2 mg
Citalopram 15 mg
HCTZ 25 mg
Acetaminophen 1000 mg
Albuterol neb x 1
Ipratroprium Bromide neb x 1 
Ipratropium-albuterol neb x 1

Transfer VS were: 99.1 HR 103 BP 143/70 RR 22 SpO2 97% 4L NC

On arrival to the floor, patient is very sleepy but reports that
her L leg hurts, and she recalls that she fell while attempting
to transfer herself from bed. Denies head strike. Denies 
shortness
of breathe or chest pain. Paperwork from ___ reviewed, "s/p fall
during attempt to self transfer, resident is mechanical lift
transfer at baseline". 

 
Past Medical History:
Per daughter--
? Dementia
Melanoma
Hypertension
Hyperlipidemia
GERD
Tinnitus
Per nursing home--
"UTI, kidney stones, hyperlipidemia, DJD, anxiety, spinal
stenosis, melanoma excision, GERD, hypertension, diastolic CHF,
depression"

 
Social History:
___
Family History:
Reviewed and thought to be non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, JVD difficult to appreciate given habitus
CV: RRR, S1/S2, ___ SEM RUSB
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: 1+ edema of RLE, splint in place to left leg, able
to wiggle toes. No TTP over hip.
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
========================
VITALS: ___ 0754 Temp: 98.8 PO BP: 123/79 HR: 89 RR: 16 O2
sat: 96% O2 delivery: 2L 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, JVD difficult to appreciate given habitus
CV: RRR, S1/S2, ___ SEM RUSB
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: 1+ edema of RLE, splint in place to left leg, able
to wiggle toes. No TTP over hip.
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:15AM BLOOD WBC-9.9 RBC-4.82 Hgb-13.9 Hct-45.3* 
MCV-94 MCH-28.8 MCHC-30.7* RDW-14.2 RDWSD-49.1* Plt ___
___ 02:15AM BLOOD Neuts-82.1* Lymphs-9.0* Monos-7.8 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-8.16* AbsLymp-0.89* 
AbsMono-0.78 AbsEos-0.01* AbsBaso-0.05
___ 02:15AM BLOOD ___ PTT-27.0 ___
___ 01:22AM BLOOD Glucose-146* UreaN-25* Creat-0.6 Na-138 
K-4.4 Cl-96 HCO3-25 AnGap-17
___ 01:28AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 01:28AM URINE Blood-SM* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 01:28AM URINE RBC-1 WBC-2 Bacteri-NONE Yeast-NONE Epi-2
___ 01:28AM URINE CastHy-7*

PERTINENT INTERVAL LABS:
========================
___ 06:25AM BLOOD ALT-9 AST-21 LD(LDH)-189 AlkPhos-72 
TotBili-0.8
___ 08:39AM BLOOD cTropnT-<0.01 proBNP-309

DISCHARGE LABS:
===============
___ 06:13AM BLOOD WBC-7.9 RBC-3.48* Hgb-10.3* Hct-31.7* 
MCV-91 MCH-29.6 MCHC-32.5 RDW-14.6 RDWSD-47.8* Plt ___
___ 06:13AM BLOOD Glucose-97 UreaN-28* Creat-0.5 Na-140 
K-3.8 Cl-97 HCO3-30 AnGap-13
___ 08:39AM BLOOD cTropnT-<0.01 proBNP-309
___ 06:13AM BLOOD Calcium-8.5 Phos-2.8 Mg-1.7

IMAGING STUDIES:
================
CT HEAD (___):
1. Patient motion mildly compromises exam. 
2. No acute intracranial process. 
3. Advanced brain parenchymal atrophy, severe hippocampal 
atrophy, consider 
neuro degenerative process. 
4. Severe chronic small vessel ischemic changes. 

TIB/FIB (AP & LAT) LEFT (___):
Status post cast placement of comminuted fractures of the distal 
tibial and fibula metadiaphysis demonstrating near anatomic 
alignment. 

FOOT AP/LAT/OB LEFT (___):
Overlying cast obscures visualization of fine osseous details. 
Comminuted 
metadiaphyseal fractures all 5 metatarsal bones demonstrating 
near natomic alignment. Partially visualized comminuted distal 
tibial and fibula  metadiaphysis fractures. 

CT LOW EXT W/O C LEFT (___):
1. Comminuted fracture of the distal tibia with oblique and 
transverse 
fracture lines. 6 mm overriding of the butterfly fragment and 
varus angulation of the distal tibia. Congruent knee and ankle 
joint. No evidence of tendon entrapment. No evidence of 
intraarticular extension. 
2. Minimally displaced fibular fracture near the syndesmosis. 
3. Multiple mildly displaced distal ___ and ___ metatarsal 
fractures, better seen on the radiograph from ___. 
Evaluation of this region is limited due to diffuse 
demineralization. 
4. Small knee joint effusion. 
5. Mild soft tissue swelling. 

CXR (___): 
Patchy atelectasis in the lung bases without focal consolidation 
to suggest pneumonia. 

CTA CHEST (___):
1. Pulmonary embolism within a right upper lobe subsegmental 
pulmonary artery. Please note evaluation of the lower lobes is 
limited due to severe respiratory motion artifact, which limits 
evaluation the lower lobe pulmonary arteries.  No evidence of 
right heart strain. 
2. Moderate sized hiatal hernia. 
3. 1.5 cm left thyroid nodule, which should be followed up with 
a thyroid 
ultrasound. 
4. Moderate height loss involving the T7 and T8 vertebral 
bodies. 

MICROBIOLOGY:
=============
Microbiology Results(last 7 days) ___  
__________________________________________________________
___ 1:28 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    10,000-100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
 
Brief Hospital Course:
SUMMARY:
========
___ year old lady with reported past medical history of dementia, 
melanoma (reportedly in remission), hypertension, 
hyperlipidemia, and GERD who presents as transfer from ___ 
with left distal tib/fib and ___ metatarsal neck fractures 
which are being managed non-operatively. She is admitted for new 
hypoxic respiratory failure.

ACUTE ISSUES ADDRESSED:
=======================
# Subsegmental PE
New O2 requirement of 4L in ED with desaturations to 87% when 
trying to wean off O2. Also documented 86% O2 sat with ___. She 
additionally has new tachycardia, tib/fib and metatarsal neck 
fractures as above, and prolonged immobilization at baseline. 
CTA chest was obtained which was positive for right upper lobe 
subsegmental PE. Troponins, BNP, and EKG otherwise negative for 
right heart strain. She was initially treated with therapeutic 
Lovenox 90mg BID, then transitioned to Apixaban ___. She will 
need to take 10mg BID for 7 days (___), followed by 5mg 
BID therafter. She'll need at least ___ months of therapy, 
although would likely favor a longer course in light of 
non-operative repair and relative immobility at baseline. She is 
currently requiring ___ O2, likely related to PE. Please wean 
O2 as tolerated at rehab. 

# L distal tib/fib and ___ metatarsal fracture
# S/p fall
# Osteoporosis
Reported unwitnessed fall while attempting to get out of bed now 
with left distal tib/fib and ___ metatarsal neck fractures. 
Orthopedics consulted on admission, will manage non-operatively. 
Will follow up in orthopedics clinic as scheduled ___. For 
pain, will discharge on Tylenol ___ Q8H and oxycodone ___ 
Q6H PRN. Please continue to wean opiates at rehab and would aim 
to taper oxycodone to off as this will be deliriogenic. Will 
also need to be on a good bowel regimen while on opiates. If not 
stooling, would add senna and Colace BID to her current Miralax 
regimen. Otherwise, continue physical therapy and vitamin D/Ca+ 
supplements for osteoporosis. 

# Thyroid nodule
Noted to have 1.5cm left thyroid nodule. Ultrasound follow up 
recommended. ___ College of Radiology guidelines recommend 
further evaluation for incidental thyroid nodules of 1.0 cm or 
larger in patients under age ___ or 1.5 cm in patients age ___ or 
___, or with suspicious findings. 

# Urinary incontinence
Foley catheter placed in ED, removed prior to discharge on ___. 
Please bladder scan regardless of urine output q ___ hours. If 
volume > 500cc, please straight cath. 

# Asymptomatic Bacteruria: 
Patient currently asymptomatic, denying any urinary frequency, 
urgency, dysuria. No fevers/chills, N/V, flank pain. UA without 
WBCs. Urine cultures were noted to be positive for pansensitive 
E. Coli (10,000-100,000 CFU/mL). Will hold off on treatment with 
antibiotics for asymptomatic bacteruria. However, if she were to 
develop symptoms, would have low threshold for UA/urine cultures 
and treatment targeted to E.Coli as above. 

CHRONIC ISSUES:
===============
# Depression: Continue citalopram 15 mg daily.

# Dementia: Currently at recent baseline mental status per 
daughter report but has been declining for past ___ years or so 
after husband's death. CT head with advanced brain parenchymal 
atrophy, severe hippocampal atrophy, likely ___ neuro 
degenerative process. ___ consider outpatient cognitive 
neurology follow up.

# Hypertension: Continue home HCTZ 25 mg daily.

# Hyperlipidemia: Reported history, not on statin. Deferred 
initiation given age.

# Goals of care: Discussed with HCP, patient and family have 
never had prior discussions of this. Hence at this time presumed 
full code. Please continue goals of care discussions as an 
outpatient. 

TRANSITIONAL ISSUES:
=====================
[] Started Apixaban ___ or R subsegmental PE. She'll need at 
least ___ months of therapy, although would likely favor a 
longer course in light of non-operative repair and immobility at 
baseline.
[] Please wean O2 as tolerated at rehab. 
[] Activity: NWB with LLE in splint.
[] Follow up with ortho trauma clinic as an outpatient, as 
scheduled on ___
[] For pain, will discharge on Tylenol ___ Q8H and oxycodone 
___ Q6H PRN. Please continue to wean opiates at rehab and 
would aim to taper oxycodone to off as this will be deliriogenic
[] Ensure she's on a good bowel regimen while on opiates. If not 
stooling, would add senna and Colace BID to her current Miralax 
regimen. 
[] Continue Ca+/Vit D supplements for osteoporosis. ___ discuss 
addition of bisphosphonate as well as an outpatient.
[] Will need thyroid ultrasound for incidentally found 1.5cm 
left thyroid nodule
[] Please continue goals of care discussions as an outpatient. 
[] Foley catheter placed in ED, removed prior to discharge on 
___. Please bladder scan regardless of urine output q ___ hours 
on ___. If volume > 500cc, please straight cath. 

#CODE: Full (presumed)
#CONTACT: ___ (___)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - First Line 

2. Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line 
3. Fleet Enema (Saline) ___AILY:PRN constipation 
4. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
5. Citalopram 15 mg PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. melatonin 3 mg oral QHS 
10. Ipratropium-Albuterol Neb 1 NEB NEB BID 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID  
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth four times a day Disp 
#*28 Capsule Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY  
4.  Acetaminophen 1000 mg PO Q8H  
5.  Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line  
6.  Citalopram 15 mg PO DAILY  
7.  Fleet Enema (Saline) ___AILY:PRN constipation  
8.  Hydrochlorothiazide 25 mg PO DAILY  
9.  Ipratropium-Albuterol Neb 1 NEB NEB BID  
10.  melatonin 3 mg oral QHS  
11.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - First 
Line  
12.  Multivitamins 1 TAB PO DAILY  
13.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
#s/p Fall
#Tibula-fibula fracture
#Acute pulmonary embolism

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had a fall at home. You were also 
found to have low oxygen levels in the emergency department.

What happened while I was in the hospital?  
- We did a CT scan to evaluate your lungs, which showed a small 
blood clot(i.e. "pulmonary embolism"). We are treating this clot 
with a blood thinner, called Apixaban ("Elliquis"). You should 
continue to take this 10mg twice daily for 7 days, followed by 
5mg twice daily for at least 6 months, if not life-long. Please 
do not stop this blood thinner before speaking with your doctor.
- You were also seen by orthopedics in the Emergency department. 
They will follow up with you as an outpatient at rehab. 

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Team  
 
Followup Instructions:
___